US06235750B1
C. 6-[4-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenyl]-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 135 mg (0.322 mmol) 2-(2,5-dimethylpyrrolyl)-6-[4-(1-benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenyl]-pyridine, 112 mg (1.61 mmol) hydroxylamine hydrochloride, 5 mL ethanol, and 1 mL water. The reaction was refluxed 40 hours cooled, and the resulting precipitate, 6-[4-(1-benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenyl]-pyridin-2-ylamine dihydrochloride, filtered and dried, 22 mg (16.5%), mp 270-272° C. Additional material was recovered from the filtrate, 60 mg (55%) of the free base as an oil.

reactant | 2-(2,5-dimethylpyrrolyl)-6-[4-(1-benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenyl]-pyridine | 0.322 mmol, 135 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)C=1CN(CCC1)CC1=CC=CC=C1)C | C29H29N3
reactant | hydroxylamine hydrochloride | 1.61 mmol, 112 mg | Cl.NO
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 6-[4-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenyl]-pyridin-2-ylamine | C(C1=CC=CC=C1)N1CC(=CCC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C23H23N3
